US07893056B2
To a solution of [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[7-(dimethylamino)-5-azaspiro[2.4]hept-5-yl]-2-ethyl-5-fluoro-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide (0.1058 g, 0.182 mmol) in MeOH (5 mL) was added 10% Pd/C (50% water, 32 mg). The mixture was hydrogenated under balloon pressure for 1 h, and then filtered. The solution was concentrated in vacuo, and the residue was azeotroped with EtOAc and crystallized from EtOAc-hexanes to afford [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[7-(dimethylamino)-5-azaspiro[2.4]hept-5-yl]-2-ethyl-5-fluoro-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide (0.0795 g, 89% yield, mixture of diastereomers) as a white solid. LCMS: (M+H)+: 492.3.

reactant | [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[7-(dimethylamino)-5-azaspiro[2.4]hept-5-yl]-2-ethyl-5-fluoro-4-pyrimidinyl}hydrazino)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.182 mmol, 0.1058 g | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)N1CC2(CC2)C(C1)N(C)C)CC | C31H44FN7O3
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 32 mg | [Pd] | Pd
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{6-[7-(dimethylamino)-5-azaspiro[2.4]hept-5-yl]-2-ethyl-5-fluoro-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide | 0.0795 g, 89% yield | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)N1CC2(CC2)C(C1)N(C)C)CC | C24H38FN7O3
